US06794397B2
6-Chloro-N-(4-chloro-2-methoxycarbonylphenyl)-3-pyridinecarboxamide
The title compound was prepared from 6-chloronicotinoyl chloride and methyl 2-amino-5-chlorobenzoate as a white solid as described in Example 1. 1H NMR (CDCl3): 12.13 (s, 1H), 9.06 (d, J=3.0, 1H), 8.86 (d, J=9.3, 1H), 8.29-8.25 (m, 1H), 8.08 (d, J=2.4, 1H), 7.60-7.57 (m, 1H), 7.50 (d, J=8.4, 1H), 3.99 (s, 3H).

reactant | 6-chloronicotinoyl chloride | ClC1=NC=C(C(=O)Cl)C=C1 | C6H3Cl2NO
reactant | methyl 2-amino-5-chlorobenzoate | NC1=C(C(=O)OC)C=C(C=C1)Cl | C8H8ClNO2
product | 6-Chloro-N-(4-chloro-2-methoxycarbonylphenyl)-3-pyridinecarboxamide | ClC1=CC=C(C=N1)C(=O)NC1=C(C=C(C=C1)Cl)C(=O)OC | C14H10Cl2N2O3
